US08664220B2
Step 1: 1-{4′-[3-Methyl-4-(4-phenyl-pyridin-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 68, Step 2, using 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 2-bromo-4-phenyl-pyridine.

reactant | 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)N | C22H22N2O3
reactant | 2-bromo-4-phenyl-pyridine | BrC1=NC=CC(=C1)C1=CC=CC=C1 | C11H8BrN
product | 1-{4′-[3-Methyl-4-(4-phenyl-pyridin-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=NC=CC(=C1)C1=CC=CC=C1 | C33H29N3O3
